US08202885B2
BB26.2 Methyl-[3-(4-trifluoromethoxy-1H-benzoimidazol-2-yl)-propyl]-amine
Prepared from 3-trifluoromethoxy-benzene-1,2-diamine in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 3-trifluoromethoxy-benzene-1,2-diamine | FC(OC1=C(C(=CC=C1)N)N)(F)F | C7H7F3N2O
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | Methyl-[3-(4-trifluoromethoxy-1H-benzoimidazol-2-yl)-propyl]-amine | CNCCCC1=NC2=C(N1)C=CC=C2OC(F)(F)F | C12H14F3N3O
